US06355617B1
N-benzyloxycarbonylproline methyl ester (13 g) in THF (20 ml) was added dropwise to lithium diisopropylamide (27.5 ml, 2M in hexane/THF) in THF (100 ml) at −78° C. under nitrogen. The mixture was stirred for 30 minutes and then allyl iodide (5.5 ml) was added dropwise and the mixture stirred for a further 30 minutes and then allowed to warm to ambient temperature. The mixture was then added to aqueous ammonium chloride (200 ml) and extracted with ether (2×200 ml). The ether layer was evaporated and the residue was purified by chromatography on silica using a gradient of hexane increasing to 20% ethyl acetate:hexane. The appropriate fractions, evaporated to dryness, gave methyl (RS)-2-allyl-N-(benzyloxycarbonyl)prolinate (9 g) as an oil.

reactant | N-benzyloxycarbonylproline methyl ester | 13 g | COC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C14H17NO4
reactant | lithium diisopropylamide | 2M, 27.5 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | allyl iodide | 5.5 ml | C(C=C)I | C3H5I
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | methyl (RS)-2-allyl-N-(benzyloxycarbonyl)prolinate | 9 g | C(C=C)C1(N(CCC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C17H21NO4
